US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-N-methyl-6-(trifluoromethyl)picolinamide
To a stirring solution of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinoyl chloride (36 mg, 0.066 mmol) in anhydrous THF (1 mL) at 0° C. was added 2 M methylamine solution in THF (0.33 mL, 0.66 mmol), followed by Et3N (0.046 mL, 0.33 mmol). The resulting mixture was stirred at 0° C. for 30 min, then at room temperature for 16 h. Analysis by HPLC/MS indicated the starting acid chloride had been consumed and the desired product had formed. The reaction mixture was diluted with water and extracted with EtOAc (15 mL×2). The combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 50% to 100% B over 8 min (A=0.1% trifluoroacetic acid, 90% water, 10% methanol and B=0.1% trifluoroacetic acid, 90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue was dissolved in EtOAc, washed with saturated aqueous NaHCO3 once, water twice, then saturated aqueous NaCl, dried over Na2SO4 and evaporated. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 12 mg (34%) of the title compound as a pale yellow powder. HPLC/MS: retention time=2.83 min, [M+H]+=539.2.

reactant | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinoyl chloride | 0.066 mmol, 36 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)Cl)=O)C2=CC=NC=C2 | C25H14Cl2F3N5O2
reactant | methylamine | 2 M | CN | CH5N
reactant | Et3N | 0.33 mmol, 0.046 mL | CCN(CC)CC | C6H15N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.66 mmol, 0.33 mL | C1CCOC1 | C4H8O
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-N-methyl-6-(trifluoromethyl)picolinamide | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)NC)=O)C2=CC=NC=C2 | C26H18ClF3N6O2
